US06890940B2
Under nitrogen, lithium aluminum hydride (4.28 g, 113 mmol) was added to an ice-cold solution of N,N-bis[2-[N-[2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]carbamoyl]ethyl]methylamine (22.50 g, 28.3 mmol) in anhydrous tetrahydrofuran (500 mL). The ice bath was removed, and the reaction mixture was stirred at 65° C. for 1 hour. Methanol (20 mL, 490 mmol) was added to the ice-cold reaction mixture, and the ice bath was removed. Water (20 mL), diethyl ether (2 L), and anhydrous magnesium sulfate (130 g) were added, and the mixture was stirred overnight at room temperature. Insoluble materials were removed by filtration through Celite, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to provide N,N-bis[N-[2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]-3′-aminopropyl]methylamine as a colorless oil (20.32 mg, yield: 94%).

reactant | lithium aluminum hydride | 113 mmol, 4.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N,N-bis[2-[N-[2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]carbamoyl]ethyl]methylamine | 28.3 mmol, 22.50 g | COC=1C=C(C=C(C1OCC(F)(F)F)OC)C1=NC=C(C=C1)NC(=O)CCN(CCC(NC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC)=O)C | C37H39F6N5O8
reactant | Methanol | 490 mmol, 20 mL | CO | CH4O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | N,N-bis[N-[2-[3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)phenyl]-5-pyridyl]-3′-aminopropyl]methylamine | 20.32 mg, yield: 94% | COC=1C=C(C=C(C1OCC(F)(F)F)OC)C1=NC=C(C=C1)NCCCN(CCCNC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC)C | C37H43F6N5O6
